US04298602
O,O-Diethyl O-(1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-yl) phosphorothioate
A 3-neck, 500-ml flask was charged with 9 g (0.046 m) of 1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol, 6.6 grams (0.048 m) of dry potassium carbonate and 150 ml of acetonitrile. The mixture was refluxed for 2 hours and then cooled to 25° C. To this mixture was added 8.67 g (0.046 m) of O,O-diethyl phosphorochloridothioate and the mixture was heated to 75° C. for 31/2 hours. The solid material which formed was removed by filtration and the acetonitrile was removed by evaporation under reduced pressure. The solid residue which remained was taken up in ethyl ether, washed with 2 percent sodium hydroxide and dried over sodium sulfate. The desired O,O-diethyl O-(1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-yl) phosphorothioate was crystallized from a 50:50 mixture of ethyl ether and hexane in a yield of 12.9 g (85 percent of theoretical). The product melted at 68°-70° C. and upon analysis was found to have carbon, hydrogen and nitrogen contents of 41.54, 4.66 and 16.05 percent, respectively, as compared to the theoretical contents of 41.62, 4.66 and 16.18 percent, respectively, as calculated for the above named compound. (Compound 2).

reactant | 1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-ol | 9 g | FC1=CC=CC(=N1)N1N=C(N=C1C)O | C8H7FN4O
reactant | potassium carbonate | 6.6 grams | C([O-])([O-])=O.[K+].[K+]
reactant | O,O-diethyl phosphorochloridothioate | 8.67 g | P(OCC)(OCC)(Cl)=S | C4H10ClO2PS
solvent | acetonitrile | 150 ml | C(C)#N | C2H3N
product | O,O-Diethyl O-(1-(6-fluoro-2-pyridinyl)-5-methyl-1H-1,2,4-triazol-3-yl) phosphorothioate | P(OCC)(OCC)(OC1=NN(C(=N1)C)C1=NC(=CC=C1)F)=S | C12H16FN4O3PS
